US06900216B2
In a similar manner to Example 18, methylthioglycolate (13 g) was reacted with 3-chloro-2-fluorobenzaldehyde (19.57 g) in dimethylformamide to give methyl 7-chlorobenzo[b]thiophene-2-carboxylate, which was hydrolysed, chlorinated and reacted with N,O-dimethylhydroxylamine hydrochloride to give 7-chloro-N-methoxy-N-methylbenzo[b]thiophene-2-carboxamide, which was reacted with ethylmagnesium bromide to give 1-(7-chlorobenzo[b]thiophen-2-yl)propan-1-one. This ketone (1.17 g) was reacted with phenyltrimethylammonium tribromide (2.15 g) to give 2-bromo-1-(7-chlorobenzo[b]thiophen-2-yl)propan-1-one (2.32 g) which was used without further purification.

reactant | methylthioglycolate | 13 g | CC(C(=O)[O-])S
reactant | 3-chloro-2-fluorobenzaldehyde | 19.57 g | ClC=1C(=C(C=O)C=CC1)F | C7H4ClFO
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | methyl 7-chlorobenzo[b]thiophene-2-carboxylate | ClC1=CC=CC2=C1SC(=C2)C(=O)OC | C10H7ClO2S
